US07414076B2
Preparation of 3-(3,4,5-trimethoxybenzyl)amino-1-propanesulfonic acid (Compound AY)
To a solution of 3,4,5-trimethoxybenzylamine (2.2 mL, 12.7 mmol) in 2-butanone (20 mL) was added 1,3-propane sultone (1.66 g, 13.3 mmol). The mixture was stirred at reflux for 2 hours. The reaction mixture was cooled to room temperature. The solid was collected by filtration, washed with acetone (2×25 mL) and dried in vacuo. The product was suspended in 90% Acetone/MeOH (75 mL). The suspension was stirred at reflux for 30 sec., the solid was collected by filtration, and dried in vacuo; affording compound AY, 2.61 g (64%).

reactant | 3,4,5-trimethoxybenzylamine | 12.7 mmol, 2.2 mL | COC=1C=C(CN)C=C(C1OC)OC | C10H15NO3
reactant | 1,3-propane sultone | 13.3 mmol, 1.66 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | 2-butanone | 20 mL | CC(CC)=O | C4H8O
product | 3-(3,4,5-trimethoxybenzyl)amino-1-propanesulfonic acid | COC=1C=C(CNCCCS(=O)(=O)O)C=C(C1OC)OC | C13H21NO6S
